US04339449
A mixture of benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (635 mg.) and cupric sulfate pentahydrate (75 mg.) in a mixed solution of acetic acid (4 ml.) and water (0.4 ml.) was stirred at room temperature. After stirring for 10 minutes, an additional cupric sulfate pentahydrate (300 mg.) was added thereto and the mixture was stirred for additional 1.5 hours. The reaction mixture was cooled to 10° C. and sodium bisulfide (86 mg.) was added thereto. The resultant mixture was filtered through a pad of Celite and the filtrate was concentrated. The residue was taken up into ethyl acetate, washed with a dilute aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride. Drying over magnesium sulfate and removal of the solvent gave a residue (648 mg.), which was chromatographed on silica gel (20 g.) with a mixed solvent of benzene and ethyl acetate (5:1 to 2:1 by volume) to give an oil (307 mg.), which was crystallized from diethyl ether to afford benzyl 7-phenoxyacetamido-8-oxo-3-hydroxy-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate (300 mg.), mp 184°-186° C.

reactant | benzyl 7-phenoxyacetamido-8-oxo-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 635 mg | O(C1=CC=CC=C1)CC(=O)NC1C2SCNC(N2C1=O)C(=O)OCC1=CC=CC=C1 | C21H21N3O5S
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
reactant | sodium bisulfide | 86 mg | [SH-].[Na+]
solvent | water | 0.4 ml | O | H2O
product | benzyl 7-phenoxyacetamido-8-oxo-3-hydroxy-5-thia-1,3-diazabicyclo[4,2,0]octane-2-carboxylate | 300 mg | O(C1=CC=CC=C1)CC(=O)NC1C2SCN(C(N2C1=O)C(=O)OCC1=CC=CC=C1)O | C21H21N3O6S
